US06762180B1
(27) 3-Z-[1-(4-(N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino)-anilino)-1-ethyl-methylene]-6-ethoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-ethyl-methylene)-6-ethoxycarbonyl-2-indolinone and N-(2-dimethylamino-ethyl)-N-methylsulphonyl-p-phenylenediamine Rf value: 0.3 (silica gel, methylene chloride/ethanol=5:1) C25H32N4O5S

reactant | 1-acetyl-3-(1-ethoxy-1-ethyl-methylene)-6-ethoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OCC)=C(CC)OCC)=O | C18H21NO5
reactant | N-(2-dimethylamino-ethyl)-N-methylsulphonyl-p-phenylenediamine | CN(CCN(C1=CC=C(C=C1)N)S(=O)(=O)C)C | C11H19N3O2S
product | 3-Z-[1-(4-(N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino)-anilino)-1-ethyl-methylene]-6-ethoxycarbonyl-2-indolinone | CN(CCN(S(=O)(=O)C)C1=CC=C(N\C(\CC)=C\2/C(NC3=CC(=CC=C23)C(=O)OCC)=O)C=C1)C | C25H32N4O5S
